US04608438
2.7 g of 3-(imidazole-1-yl)-2-heptanone and 3.0 g of 3,4-dichlorobenzaldehyde were dissolved in 50 ml of methanol. While stirring this solution under cooling with ice (0°-5° C.), 2.1 g of potassium carbonate was added. Then, the mixture was stirred at the same temperature for 7 hours. The reaction mixture was poured into water and extracted with chloroform. The extraction solution was treated by a usual method, and the obtained oily product was purified by chromatography, whereby 1-(3',4'-dichlorophenyl)-4-(imidazole-1-yl)-1-octene-3-one was obtained as an oily product.

reactant | 3-(imidazole-1-yl)-2-heptanone | 2.7 g | N1(C=NC=C1)C(C(C)=O)CCCC | C10H16N2O
reactant | 3,4-dichlorobenzaldehyde | 3.0 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3',4'-dichlorophenyl)-4-(imidazole-1-yl)-1-octene-3-one | ClC=1C=C(C=CC1Cl)C=CC(C(CCCC)N1C=NC=C1)=O | C17H18Cl2N2O
